US08729068B2
To a mixture of 48.8 g of methyl 4-[(E)-2-(4-nitrophenyl)vinyl]benzoate, 600 mL of THF, and 200 mL of N,N-dimethylformamide (DMF) was added 10.0 g of 10% palladium on carbon (wetted with 55% H2O), followed by stirring at room temperature for 8 hours under a hydrogen atmosphere (1 atm). The inside of the reaction container was replaced with argon, and then the insoluble materials were filtered off on a celite layer. The filtrate was concentrated under reduced pressure, and to the residue was added 1000 mL of water, followed by stirring at room temperature for 30 minutes. The precipitate was collected by filtration to obtain 43.3 g of methyl 4-[2-(4-aminophenyl)ethyl]benzoate as a white solid.

reactant | methyl 4-[(E)-2-(4-nitrophenyl)vinyl]benzoate | 48.8 g | [N+](=O)([O-])C1=CC=C(C=C1)/C=C/C1=CC=C(C(=O)OC)C=C1 | C16H13NO4
reactant | THF | 600 mL | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 10.0 g | [Pd] | Pd
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | methyl 4-[2-(4-aminophenyl)ethyl]benzoate | 43.3 g | NC1=CC=C(C=C1)CCC1=CC=C(C(=O)OC)C=C1 | C16H17NO2
